US07314885B2
(4-(5-(2,3-Difluorophenyl)-1H-1,2,3-triazol-4-yl)-1H-pyrrol-2-yl)(pyrrolidin-1-yl)methanone.
(4-(2-(2,3-difluorophenyl)ethynyl)-1-BOC-pyrrol-2-yl)(pyrrolidin-1-yl)methanone (0.2 g, 0.5 mmol) was dissolved in trimethylsilylazide (3 mL) and heated at 150° C. for 18 hr. The solvent was evaporated and the crude product was purified by Biotage HPFC system (100% EtOAC) to afford title compound as a brown foam (0.019 g, 11%).; Mass Spec FIA MS 344; 1H NMR(CDCl3, 500 MHz) 10.05(s,1H), 7.06-7.25(m, 3H), 6.98(s,1H), 6.71(s,1H),3.55-3.60(m,4H), 1.79-1.95(m,4H).

reactant | (4-(2-(2,3-difluorophenyl)ethynyl)-1-BOC-pyrrol-2-yl)(pyrrolidin-1-yl)methanone | 0.5 mmol, 0.2 g | FC1=C(C=CC=C1F)C#CC=1C=C(N(C1)C(=O)OC(C)(C)C)C(=O)N1CCCC1 | C22H22F2N2O3
reactant | trimethylsilylazide | 3 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
product | (4-(5-(2,3-Difluorophenyl)-1H-1,2,3-triazol-4-yl)-1H-pyrrol-2-yl)(pyrrolidin-1-yl)methanone | 0.019 g, 11% | FC1=C(C=CC=C1F)C1=C(N=NN1)C=1C=C(NC1)C(=O)N1CCCC1 | C17H15F2N5O
